US20010008892A1
N′-[(1R)-1-[[[(1S,2R)-3-[(2S)-2-[[(1,1-Dimethylethyl)amino]carbonyl]-4-(5-thiazolylmethyl)-1-piperazinyl]-2-hydroxy-1-(phenylmethyl)propyl]amino]carbonyl]-2-methylpropyl]-N-methyl-N-(5-thiazolylmethyl)urea
The title compound was prepared in two steps. N′-[(1R)-1-[[[(1S,2R)-3-[(2S)-2-[[(1,1-dimethylethyl)amino]carbonyl]-4-[1,1-dimethylethyloxy(carbonyl)]-1-piperazinyl]-2-hydroxy-1-(phenylmethyl)propyl]amino]carbonyl]-2-methylpropyl]-N-methyl-N-(5-thiazolylmethyl)urea was treated with trifluoroacetic acid according to the method described in Example 1D. This was followed by akylation of the product according to the method of Example 1E, substituting 5-thiazolyl chloride in place of 3,4-dioxomethylenebenzyl chloride.

reactant | N′-[(1R)-1-[[[(1S,2R)-3-[(2S)-2-[[(1,1-dimethylethyl)amino]carbonyl]-4-[1,1-dimethylethyloxy(carbonyl)]-1-piperazinyl]-2-hydroxy-1-(phenylmethyl)propyl]amino]carbonyl]-2-methylpropyl]-N-methyl-N-(5-thiazolylmethyl)urea | CC(C)(C)NC(=O)[C@H]1N(CCN(C1)C(=O)OC(C)(C)C)C[C@H]([C@H](CC1=CC=CC=C1)NC(=O)[C@@H](C(C)C)NC(N(CC1=CN=CS1)C)=O)O | C35H55N7O6S
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | 5-thiazolyl chloride | S1C=NC=C1Cl | C3H2ClNS
product | N′-[(1R)-1-[[[(1S,2R)-3-[(2S)-2-[[(1,1-Dimethylethyl)amino]carbonyl]-4-(5-thiazolylmethyl)-1-piperazinyl]-2-hydroxy-1-(phenylmethyl)propyl]amino]carbonyl]-2-methylpropyl]-N-methyl-N-(5-thiazolylmethyl)urea | CC(C)(C)NC(=O)[C@H]1N(CCN(C1)CC1=CN=CS1)C[C@H]([C@H](CC1=CC=CC=C1)NC(=O)[C@@H](C(C)C)NC(N(CC1=CN=CS1)C)=O)O | C34H50N8O4S2
